US05589473
To a solution of 38.6 g of (S)-2-hydroxy-propionic acid ethyl ester, 8.21 g of 4-dimethylamino-pyridine and 25.9 g of pyridine in 97 g of acetonitrile were added 92.0 g of triphenylchloromethane, and the mixture was heated at reflux for 16 h. The reaction mixture was cooled and partitioned between ethyl acetate and water. The organic layer was successively washed with 1M potassium hydrogensulfate solution, saturated potassium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residual oil was taken up in a solution of 22 g of sodium hydroxide in 200 ml of methanol, and the mixture was stirred for 16 h. The reaction mixture was filtered and the filtrate was diluted with 0.5 l of water. The resulting mixture was first concentrated in vacuo to a volume of about 0.5 l and then extracted with tert-butyl methyl ether and the organic phase was discarded. The pH of the aqueous phase was adjusted to 3 by the addition of 2N potassium hydrogensulfate solution and again extracted with tert-butyl methyl ether. The organic phase was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residual oil was taken up in hexane to afford 56.0 g of (S)-2-trityloxy-propionic acid as off white crystals, m.p. 100°-106° C. Recrystallization from hexane/tert-butyl methyl ether afforded white crystals, m.p. 117.5°-119° C.

reactant | (S)-2-hydroxy-propionic acid ethyl ester | 38.6 g | C(C)OC([C@H](C)O)=O | C5H10O3
reactant | pyridine | 25.9 g | N1=CC=CC=C1 | C5H5N
reactant | triphenylchloromethane | 92.0 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
catalyst | 4-dimethylamino-pyridine | 8.21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 97 g | C(C)#N | C2H3N
product | (S)-2-trityloxy-propionic acid | 56.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O[C@H](C(=O)O)C | C22H20O3
